US04835276
Step B: Preparation of 2-(3-benzo[b]furanyl)ethylamine
To a solution of 3.1 g of 3-cyanomethylbenzo[b]furan in 40 mL of methanol was added 2.4 g of Raney nickel. The reaction was agitated at 25° C. in a Parr apparatus under 40 psi hydrogen for 21/2 hours. The suspension was filtered through a pad of filter aid and the filtrate was evaporated to give 2.2 g (71% yield) of oily product.

reactant | 3-cyanomethylbenzo[b]furan | 3.1 g | C(#N)CC=1C2=C(OC1)C=CC=C2 | C10H7NO
reactant | hydrogen | [H][H] | H2
solvent | methanol | 40 mL | CO | CH4O
catalyst | Raney nickel | 2.4 g | [Ni] | Ni
product | 2-(3-benzo[b]furanyl)ethylamine | 2.2 g, 71% yield | O1C2=C(C(=C1)CCN)C=CC=C2 | C10H11NO
